US08048878B2
Synthesis of (R*)-4-(4-fluorophenyl)-1-hydroxyhexahydropyrido[2,1-c][1,4]oxazin-6-one
Sodium borohydride (70.9 mg) was added to a solution of ethyl (R*)-1-[(R*)-1-(4-fluorophenyl)-2-hydroxyethyl]-6-oxopiperidine-2-carboxylate (290 mg) in methanol (5.0 mL) under ice-cooling, and the reaction solution was stirred for one hour and 40 minutes. Water and ethyl acetate were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system->ethyl acetate-methanol system) to obtain 183 mg of the title compound. The property values of the compound are as follows.

reactant | Sodium borohydride | 70.9 mg | [BH4-].[Na+]
reactant | ethyl (R*)-1-[(R*)-1-(4-fluorophenyl)-2-hydroxyethyl]-6-oxopiperidine-2-carboxylate | 290 mg | FC1=CC=C(C=C1)[C@H](CO)N1[C@H](CCCC1=O)C(=O)OCC | C16H20FNO4
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 5.0 mL | CO | CH4O
product | (R*)-4-(4-fluorophenyl)-1-hydroxyhexahydropyrido[2,1-c][1,4]oxazin-6-one | 183 mg | FC1=CC=C(C=C1)C1N2C([C@@H](OC1)O)CCCC2=O | C14H16FNO3
